Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ with history of coronary artery disease c/b
ischemic MR ___ DES to LCX ___, TTE ___ with mild regional LV
systolic dysfunction), heart failure with preserved ejection
fraction (LVEF 50% ___, peripheral vascular disease, chronic
kidney disease (stage IV), prior unprovoked DVT c/b severe UGIB
while on AC, HTN, dyslipidemia, and T2DM who presents with
several days of shortness of breath.     

Patients says that she first noticed rather acute onset dyspnea
starting ___ when trying to walk up the stairs in her home. 

She had to sit down and catch her breath, whereas just days 
prior
she was able to mount ___ of stairs without difficulty. 
Patient denies any associated chest pain or palpitations.  No
dizziness or lightheadedness.  Patient further denies any cough,
fevers/chills, or pleuritic chest discomfort.  She has not
experienced any symptoms consistent with orthopnea or PND.  No
increased ___ swelling, patient notes that she has experienced
this in the past.  

Patient takes her weight nearly every day, 7lbs reported weight
gain over the past week (154lbs -> 161lbs), which she attributes
to eating more over the ___.  She is currently
taking torsemide 40mg qd, no missed doses.  No issues with
abdominal bloating or constipation.  No recent travel.  
Patient's
husband just recovered from a viral URI.       

In the ED, initial VS were: 97.2 90 186/87 22 100% RA   

Exam notable for:
Obvious bilateral wheezing.
No overt volume overload.  

EKG: NSR (92bpm), normal axis, normal PR/QRS intervals, QTc 479,
q-waves III/aVF, TWIs III/aVF/V3/V6, submm lateral STDs, no 
STEs.

Labs showed:  
CBC 6.0>9.0/27.8<176 (PMNs 75.2%, MCV 97)
BMP 142/4.8/105/___/2.4/189
Trop <.01
proBNP 4512
VBG 7.33/40
UA: 1.010 SG, pH 6.0, urobilinogen NEG, bilirubin NEG, leuk NEG,
blood NEG, nitrite NEG, protein 100, glucose NEG, ketones NEG,
RBC 1, WBC 1, few bacteria

Imaging showed: 
CXR ___
FINDINGS:  
Lungs are moderately well-expanded. There is an asymmetric right
lower lung opacity, new from ___. The heart appears mildly
enlarged and there is mild pulmonary vascular congestion. No
pleural effusion or pneumothorax. 
IMPRESSION:  
Right lower lobe opacity could represent pneumonia in the right
clinical setting, although atelectasis or asymmetric pulmonary
edema could account for this finding. Dedicated PA and lateral
views could be helpful for further assessment. 
 
Consults: NONE  

Patient received:  
___ 21:45 IH Albuterol 0.083% Neb Soln 1 NEB  
___ 22:08 IH Albuterol 0.083% Neb Soln 1 NEB  
___ 22:08 IH Ipratropium Bromide Neb 1 NEB  
___ 22:47 IH Albuterol 0.083% Neb Soln 1 NEB 
___ 22:47 IH Ipratropium Bromide Neb 1 NEB 
___ 22:51 IV Azithromycin 
___ 22:51 IV CefTRIAXone
___ 22:51 PO PredniSONE 60 mg
___ 22:51 IV Furosemide 80 mg 
___ 23:01 IV CefTRIAXone 1 gm  
___ 00:13 IV Azithromycin 500 mg
___ 00:23 PO/NG Atorvastatin 80 mg
___ 00:23 PO/NG Carvedilol 25 mg
___ 00:23 PO NIFEdipine (Extended Release) 60 mg 
___ 00:23 IH Albuterol 0.083% Neb Soln 1 NEB 
___ 00:23 IH Ipratropium Bromide Neb 1 NEB
___ 00:26 PO/NG Gabapentin 100 mg
___ 00:44 SC Insulin 4 Units

Transfer VS were: 98.2 77 141/76 18 100% 2L NC 
   
On arrival to the floor, patient recounts the history as above. 
She says that she feels improved after treatment in the ED, no
ongoing SOB. 
 
10-point ROS is otherwise NEGATIVE.

 
Past Medical History:
Coronary artery disease
Peripheral vascular disease
Type II Diabetes Mellitus c/b diabetic retinopathy
Obesity
Esophageal ring
Hypertension
Dyslipidemia
Bilateral unprovoked posterior tibial DVTs (___) off AC given
severe UGIB
CKD Stage IV iso DM/HTN, secondary hyperparathyroidism
Anemia
Gout
 
Social History:
___
Family History:
Niece had some sort of cancer. Father died in his ___ due to 
lung disease. Mother died in her ___ due to an unknown cause. 
No early CAD or sudden cardiac death. No other known history of 
cancer. 
 
Physical Exam:
==============================
 ADMISSION PHYSICAL EXAM
==============================
VS: 97.5 162/93 78 16 100RA   
GENERAL: Pleasant female appearing younger than her stated age,
taking deep breaths while speaking  
HEENT: EOMI, PERRL, anicteric sclera, pink conjunctiva, MMM.  
NECK: JVD 10 CM. 
HEART: RRR, S1/S2, no murmurs, gallops, or rubs.  
LUNGS: CTAB, no wheezes. 
ABDOMEN: Obese abdomen, normoactive BS throughout, nondistended,
nontender in all quadrants, no rebound/guarding, no
hepatosplenomegaly.  
EXTREMITIES: No cyanosis, clubbing, or edema.  
PULSES: 2+ radial pulses bilaterally.  
NEURO: A&Ox3, moving all 4 extremities with purpose.  
SKIN: Warm and well perfused, no excoriations or lesions, no
rashes.  
 
==============================
DISCHARGE PHYSICAL EXAM
==============================
VS: Afeb, 144/78, HR 57, 97% RA, RR 12
GEN: Well appearing in NAD
Neck:  No JVD appreciated
CV: RRR no m/r/g, no carotid bruits appreciated
PULM: CTAB no wheezes, rales, or crackles.  Symmetric expansion
EXT: warm well perfused, no pitting edema 
 
Pertinent Results:
==============================
 ADMISSION LABS
==============================
___ 09:37PM BLOOD WBC-6.0 RBC-2.88* Hgb-9.0* Hct-27.8* 
MCV-97 MCH-31.3 MCHC-32.4 RDW-15.1 RDWSD-52.0* Plt ___
___ 09:37PM BLOOD Neuts-75.2* Lymphs-17.6* Monos-4.4* 
Eos-1.8 Baso-0.3 Im ___ AbsNeut-4.49 AbsLymp-1.05* 
AbsMono-0.26 AbsEos-0.11 AbsBaso-0.02
___ 06:40AM BLOOD ___ PTT-25.9 ___
___ 09:37PM BLOOD Glucose-189* UreaN-38* Creat-2.4* Na-142 
K-4.8 Cl-105 HCO3-20* AnGap-17
___ 09:37PM BLOOD proBNP-4512*
___ 09:37PM BLOOD cTropnT-<0.01
___ 06:40AM BLOOD CK-MB-6 cTropnT-0.05*
___ 02:01PM BLOOD CK-MB-5 cTropnT-0.04*
___ 09:37PM BLOOD Calcium-9.4 Phos-4.1 Mg-2.3
___ 09:41PM BLOOD ___ pO2-30* pCO2-40 pH-7.33* 
calTCO2-22 Base XS--5
 
==============================
 IMAGING
==============================
TTE ___: The left atrial volume index is mildly increased. 
The estimated right atrial pressure is ___ mmHg. Left 
ventricular wall thicknesses and cavity size are normal. There 
is mild regional left ventricular systolic dysfunction with 
basal inferoseptal, inferior, inferolateral as well as mid 
inferior/inferoseptal wall motion abnormalities. Doppler 
parameters are most consistent with Grade II (moderate) left 
ventricular diastolic dysfunction. Right ventricular chamber 
size and free wall motion are normal. The diameters of aorta at 
the sinus, ascending and arch levels are normal. The aortic 
valve leaflets (3) are mildly thickened but aortic stenosis is 
not present. There is no aortic valve stenosis. Trace aortic 
regurgitation is seen. The mitral valve leaflets are moderately 
thickened. Mild (1+) mitral regurgitation is seen. The tricuspid 
valve leaflets are mildly thickened. There is mild pulmonary 
artery systolic hypertension. There is no pericardial effusion. 

 IMPRESSION:   1) Mild regional LV systolic dysfunction c/w 
prior myocardial infarction in the RCA territory.   2) Grade II 
LV diastolic dysfunction.
 Compared with the prior study (images reviewed) of ___, LV 
sytolic function appears mildly less vigorous. Regional wall 
motion abnormalities encompassess slightly greater territory.  

CXR PA & LAT ___: No focal consolidation or pulmonary 
edema.

BILATERAL LOWER EXTREMITY DOPPLER ULTRASOUND ___:   
1. Nonocclusive thrombosis of one of the paired posterior tibial 
veins in the bilateral lower extremities which appears grossly 
unchanged compared to bilateral lower extremity ultrasound ___.  No new deep venous thrombosis in either 
extremity. 
2. Right ___ cyst measuring up to 1.8 cm across maximal 
diameter is 
unchanged in size compared to ___. 
  
==============================
 MICROBIOLOGY
==============================
 URINE CULTURE ___: ENTEROCOCCUS SP..    >100,000 CFU/mL.
 BLOOD CULTURE ___: Blood Culture: PENDING 
 BLOOD CULTURE ___: Blood Culture: PENDING 

==============================
 DISCHARGE LABS
==============================
___ 05:45AM BLOOD WBC-5.1 RBC-2.57* Hgb-7.9* Hct-24.5* 
MCV-95 MCH-30.7 MCHC-32.2 RDW-15.0 RDWSD-51.8* Plt ___
___ 05:45AM BLOOD Glucose-144* UreaN-49* Creat-2.6* Na-147 
K-4.0 Cl-105 HCO3-24 AnGap-___ yo F  PMH CAD c/b ischemic MR ___ DES to ___ ___, TTE ___ 
with mild regional LV systolic dysfunction), HFpEF (LVEF 50% 
___, PAD, CKD (stage IV), prior DVT c/b severe UGIV on AC, 
T2DM presents with subacute SOB, weight gain, c/f acute heart 
failure exacerbation.  She underwent diuresis with IV Lasix 80 
mg, 120mg IV x2 with rapid improvement in subjective dyspnea.  
___ showed no acute DVT, CXR without sign of consolidation.  
Given her improvement in dyspnea, no supplemental O2 
requirement, the patient was discharged w/o medication changes.

# Shortness of breath
# Hypoxia
# acute exacerbation of chronic diastolic heart failure with 
preserved LVEF (50%)
Dry weight per pt 154 lbs.  Admission weight above baseline, BNP 
elevated.  Regarding trigger, suspect dietary vs uncontrolled 
BP. No EKG changes for ACS, trop negative, repeat TTE showed 
mild regional LV systolic dysfunction c/w prior myocardial 
infarction in the RCA territory, as well as Grade II LV 
diastolic dysfunction and similar to prior ___ TTE. Doubt PNA 
given CXR and lack of cough/fever, doubt PE given low Wells' 
score 1.5, and stable repeat ___. Underwent diuresis with IV 
Lasix 80 mg, 120mg IV x2 with rapid improvement in subjective 
dyspnea.  Resumed home torsemide 40mg, nifedipine 60mg BID and 
carvedilol 25mg BID.  Was stable on RA prior to discharge.

# Hypertension - Patient missed her antiHTN medications earlier 
day of admission. Continued home carvedilol 25mg BID and 
nifedipine 60mg BID with holding parameters. Appears that a 
trial of ___ or spironolactone would be limited by 
hyperkalemia, so this was deferred.
     
# Urinary frequency/urge incontinence: occurred in setting of 
diuresis, however UCx ordered in ED did grow enterococci, likely 
colonization. If symptoms persists would revaluate/treat.
         
CHRONIC STABLE ISSUES

# Normocytic anemia (recent baseline Hb 9.4 ___ - Hb was at 
baseline, no signs of active bleeding.  Likely multifactorial, 
anemia of chronic disease as well as decreased erythropoiten 
production iso CKD.
 
# Non anion gap metabolic acidosis - Patient has intermittently 
had a NAGMA in the past.  No recent diarrhea.  ___ suspect Type 
IV RTA given advanced age and history of T2DM (both of which can 
cause hyporeninemia).

# Stage IV Chronic Kidney Disease (baseline Cr 2.3-2.8) - CKD 
iso HTN and T2DM, Cr is currently at baseline. Low K/Phos/Na 
diet. Continued home calcitriol, avoided nephrotoxins and 
renally dosed all medications.

# Coronary artery disease ___ DES to LCX ___: troponins were 
trended from < 0.01 to 0.05 to 0.04 then stopped. CK-MB was 
flat.  Patient deneied any chest pain. A TTE showed mild 
regional LV systolic dysfunction c/w prior myocardial infarction 
in the RCA territory and similar to prior ___ TTE. Continued 
home aspirin 81mg qd, home carvedilol 25mg BID with holding 
parameters, home atorvastatin 80mg qHS.
 
# Type II Diabetes Mellitus (last HbA1C 6.4% ___ - Under 
excellent control, most recently in the pre-diabetic range.
- Continue home 70/30 sliding scale (___t dinner if 
blood sugar over 130, 10 units 90-130, none if blood sugar under 
90) 

# Dyslipidemia: continued home atorvastatin

# Insomnia: continued home gabapentin

# Gout: continued home allopurinol
 
==============================
 TRANSITIONAL ISSUES
==============================
- Discharge weight: 69.2kg
- Discharge creatinine: 2.6
- Discharge oral diuretic: torsemide 40mg daily
- Transitional issue: consider outpatient epo with renal 
- Transitional issue: BP goal of 140/90 per accord or even 
130/80 per ACC/AHA ___ guidelines however anticipate difficulty 
in adding additional agents iso CKD (limits use of clonidine) 
and baseline potassium (would likely limit ___ or 
spironolactone) 
- TTE showed prior LV hypokinesis, could consider MIBI or 
outpatient pharmacological stress test
- had some urinary retention/incontinence while undergoing IV 
diuresis would assess for recurrent symptoms at routine 
outpatient visits

#CODE: Full (confirmed)  
#CONTACT: ___ (husband) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO EVERY OTHER DAY 
2. Atorvastatin 80 mg PO QPM 
3. Calcitriol 0.5 mcg PO DAILY 
4. Carvedilol 25 mg PO BID 
5. Gabapentin 100 mg PO QHS 
6. NIFEdipine (Extended Release) 60 mg PO BID 
7. Torsemide 40 mg PO DAILY 
8. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
9. Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
10. Aspirin 81 mg PO DAILY 
11. Insulin SC 
      Sliding Scale
Insulin SC Sliding Scale using 70/30 Insulin

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Allopurinol ___ mg PO EVERY OTHER DAY  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 80 mg PO QPM  
5.  Calcitriol 0.5 mcg PO DAILY  
6.  Carvedilol 25 mg PO BID  
7.  Gabapentin 100 mg PO QHS  
8.  Insulin SC 
      Sliding Scale
Insulin SC Sliding Scale using 70/30 Insulin 
9.  NIFEdipine (Extended Release) 60 mg PO BID  
10.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
11.  Torsemide 40 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
- Acute on chronic diastolic congestive heart failure

SECONDARY DIAGNOSES
- Hypertension
- History of prior DVT
- Anemia, NOS
- Chronic Kidney Disease stage IV
- Coronary Artery Disease ___ drug eluting stent
- Diabetes Mellitus Type 2 controlled

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to the hospital with shortness of breath and 
weight gain.  This was likely caused by an exacerbation of your 
heart failure possibly from salty foods over the holiday. 

While you were in the hospital:
- we gave you IV diuretics to help remove extra fluid
- we checked for pneumonia with a chest x-ray, there was no sign 
of a pneumonia
- we checked for signs on new clots in your legs, there was no 
new clot

Now that you are going home:
- continue to take all of your medications as prescribed
- monitor your salt intake, this should be no more than 2 grams 
every day, ask your doctors for help with this if you do not 
know how to keep track of your salt
- continue to weigh yourself every morning, call your doctor if 
weight goes up more than 3 lbs.
- follow-up with your primary care doctor regarding your blood 
pressure and blood sugar control

It was a pleasure taking care of you!

Your ___ Inpatient Care Team
 
Followup Instructions:
___